US08557805B2
(2-{5-[4-(Methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid
A mixture of ethyl(2-{5-[4-(methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate (424 mg), 1M aqueous sodium hydroxide solution (2 mL), tetrahydrofuran (10 mL), and ethanol (10 mL) was stirred at room temperature for 2 hr. The reaction solution was concentrated under reduced pressure, water was added, and the mixture was washed with ethyl acetate. The aqueous layer was neutralized with 1M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was solidified with diethyl ether, and the obtained solid was washed with diethyl ether-hexane to give the title compound (270 mg, yield 67%) as a yellow solid.

reactant | ethyl(2-{5-[4-(methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate | 424 mg | C(C)OC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC1=CC=C(C=C1)S(=O)(=O)C)OC1CCOCC1)=O | C27H30N2O7S2
reactant | sodium hydroxide | 1M, 2 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (2-{5-[4-(Methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 270 mg, yield 67% | CS(=O)(=O)C1=CC=C(OC=2C=C3C=C(NC3=C(C2)OC2CCOCC2)C=2SC(CN2)CC(=O)O)C=C1 | C25H26N2O7S2
